US08211900B2
Stage 1—Synthesis of 2-[(2,6-dimethoxy-4-nitrophenoxy)methyl]-1,3-dioxolane
To a mixture of 2,5-dimethoxy-3-hydroxynitrobenzene (2.0 g, 8.43 mmol), 18-crown-6 (2.97 g, 8.43 mmol) and bromomethyl dioxolane (4.22 g, 25.3 mmol) was added DMF (60 ml). The solution was then heated for a total of 1.5 h in the CEM microwave at 140° C., initial voltage=300 W. The solution was poured on to a mixture of sat. NaHCO3 and Et2O, the layers separated and the aqueous extracted with Et2O. The combined organic layers were washed with water (4×50 ml), 1M HCl (50 ml) and brine (2×50 ml), dried over MgSO4 filtered and evaporated. Hexanes were added to the solid residue and the resulting suspension stirred for 1 h. The product was isolated by filtration and dried in a vacuum oven to afford the title compound (1.45 g, 57%). m/z 286 [M+H]+.

reactant | 2,5-dimethoxy-3-hydroxynitrobenzene | 8.43 mmol, 2.0 g | COC1=C(C=C(C=C1O)OC)[N+](=O)[O-] | C8H9NO5
reactant | 18-crown-6 | 8.43 mmol, 2.97 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bromomethyl dioxolane | 25.3 mmol, 4.22 g | BrCC1OCCO1 | C4H7BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Et2O | CCOCC | C4H10O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-[(2,6-dimethoxy-4-nitrophenoxy)methyl]-1,3-dioxolane | 1.45 g, 57% | COC1=C(OCC2OCCO2)C(=CC(=C1)[N+](=O)[O-])OC | C12H15NO7
